US07902367B2
Step 81b) 3-[[4-(4-Fluorophenoxy)phenyl]methoxy]piperidine
A 1 mol/L aqueous potassium hydroxide solution (2 mL) was added to 1-trifluoroacetyl-3-[4-(4-fluorophenoxy)benzyloxy]piperidine (434 mg, 1.09 mmol) in methanol (4 mL). The mixture was refluxed for 2 hours and was allowed to cool. Water was then added and the mixture was extracted with ethyl acetate. The organic layer was washed with brine and the washed product was dried over magnesium sulfate. The solvent was evaporated to give 314 mg (95%) of the desired compound as a colorless oil.

reactant | potassium hydroxide | 1 mol/L, 2 mL | [OH-].[K+]
reactant | 1-trifluoroacetyl-3-[4-(4-fluorophenoxy)benzyloxy]piperidine | 1.09 mmol, 434 mg | FC(C(=O)N1CC(CCC1)OCC1=CC=C(C=C1)OC1=CC=C(C=C1)F)(F)F | C20H19F4NO3
reactant | Water | O | H2O
solvent | methanol | 4 mL | CO | CH4O
product | 3-[[4-(4-Fluorophenoxy)phenyl]methoxy]piperidine | 314 mg, 95% | FC1=CC=C(OC2=CC=C(C=C2)COC2CNCCC2)C=C1 | C18H20FNO2
